Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Sulfasalazine
 
Attending: ___.
 
Chief Complaint:
Pelvic pain, ruptured ectopic pregnancy
 
Major Surgical or Invasive Procedure:
L/s as above.
 
History of Present Illness:
37 g2po (tab1) presents as transfer from ___ for 
early pregnancy, ___ constant LLQ.  Pt s/p RSO.  U/s 
demonstrated enlarged hyperstimulated left ovary w/ nl flow.  
S/p IVF, VOR ___, UT ___ embryos transferred. 

 
Past Medical History:
GYN: IF, ovarian cysts
PMH: None
PSH: L/S, RSO, for ovarian cyst, ___
MEDS: none
ALL: sulfa -hives
 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
VSS at ED.  BP 100/60, P70.  Appeared in no distress.COR RRR, 
PULM CTAB, abd mildly distended, moderately tender, no rbnd, no 
guarding.  Ext w/o edema.

 
Pertinent Results:
Hct 29% (down from 37%). Labs otherwise unremarkable.
TV u/s, preliminary read: Left adnexal mass likely hematoma 
adjacent to the massive left ovary (hyperstimulated). Single 
viable intrauterine gestation (7wks), a second intrauterine ___ 
is nonviable.
 
Brief Hospital Course:
PREOP DX: Pelvic pain, possible ruptured heterotopic pregnancy 
vs ruptured adnexal cyst
POST OP DX: Ruptured left tubal ectopic pregnancy
PROCEDURE: Operative l/s,  removal of EP, left salpngectomy
___   ASST: ___: Gen
FINDINGS:
1- 150 cc hemoperitoneum
2- 150 cc clot
3- Left FT -  ruptured an bleeding at ventral surface ampulla 
with surrounding clot and presumed gestational tissue.
4 - Enlarged hyperstimulated left ovary w/ normal and 
vascularized appearance  before, during and at the end of case
5 - Surgically absent right FT and ovary
6 - Adhesions of large bowel to LLQ side wall
7 -Enlarged uterus c/w 7 wks GA
IVF: ___ cc; 500 cc Hespan
U/O:330 cc
EBL:350
COMPLICATIONS: none
SPECIMEN: Left FT, EP, clot
DISPO:  Stable to PACU

INPATIENT NOTE - ___ SUMMARY

Pt seen at ___ontrolled, DTV, no specific 
complaints.  VSS w/ BP 100-110/ 50-60, p70.  Exam w/ clear 
lungs, regular HR, abd mildly distended, mildly tender, incision 
C/d/i though ecchymosis noted at ___ port site.  

Labs notalble for :
HCT
5 AM   19.7
9 AM   22.4
1PM    21.1
6PM    20

Diet advanced once Hct determined to be stable.  
TV u/s to be done bedside by residents to assess IU pregnancy 
viabilit
 
Medications on Admission:
None
 
Discharge Medications:
1. Polysaccharide Iron Complex ___ mg Capsule Sig: One (1) 
Capsule PO BID (2 times a day).
Disp:*60 Capsule(s)* Refills:*2*
2. Acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q6H (every 
6 hours) as needed.
Disp:*0 Tablet(s)* Refills:*0*
3. Oxycodone-Acetaminophen ___ mg Tablet Sig: One (1) Tablet 
PO Q4H (every 4 hours) as needed.
Disp:*30 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Ruptured heterotopic pregnancy with concomittant intrauterine 
pregnancy.
 
Discharge Condition:
Excellent.
 
Discharge Instructions:
Activity as tolerated; Niferex 2x day; Tylenol as needed.  
 
Followup Instructions:
___